US04112095
A suspension of 100 g. of 6-(3-bromo-4-methoxyphenyl)-3(2H)-pyridazinone [J. Heterocyclic Chem. 11, 775 (1974) ]in 150 ml. of phosphorus oxychloride is refluxed until a clear solution is obtained (approximately 5 hours). The solution is cooled and excess phosphorus oxychloride is removed under vacuum to give a brown solid which is triturated with ice water. The solid is collected by filtration and is recrystallized to afford 3-(3-bromo-4-methoxyphenyl)-6-chloropyridazine.

reactant | 6-(3-bromo-4-methoxyphenyl)-3(2H)-pyridazinone | BrC=1C=C(C=CC1OC)C=1C=CC(NN1)=O | C11H9BrN2O2
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-(3-bromo-4-methoxyphenyl)-6-chloropyridazine | BrC=1C=C(C=CC1OC)C=1N=NC(=CC1)Cl | C11H8BrClN2O
